US05231216
Trans-2-[2'-(N'-phenylthioureido)cyclohexyloxy] acetic acid
To a solution of sodium ethoxyde prepared from Na (0.046 g, 2 mmoles) and ethanol (10 ml), there were added trans-2-carboxymethoxy-cyclohexyl ammonium chloride (0.419 g, 2 mmoles) and phenylisothiocyanate (0.270 g, 2 mmoles). The mixture was refluxed for 1 hour, evaporated and the residue was dissolved in 1N NaOH (25 ml). The solution was extracted with diethyl ether (2×20 ml), the aqueous phase was acidified with HCl 18% to pH 2 and reextracted with diethyl ether (3×20 ml). The organic phase was dried with MgSO4, the drying agent was filtered off and the filtrate was evaporated in vacuo. The residue was recrystallized from a mixture of ethanol/ether. Thus, there were obtained 0.185 g (30%) of the title compound in the form of white crystals, melting point 147°-149° C.

reactant | sodium | [Na] | Na
reactant | trans-2-carboxymethoxy-cyclohexyl ammonium chloride | 2 mmoles, 0.419 g | [Cl-].C(=O)(O)CO[C@H]1[C@@H](CCCC1)[NH3+]
reactant | phenylisothiocyanate | 2 mmoles, 0.270 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Trans-2-[2'-(N'-phenylthioureido)cyclohexyloxy] acetic acid | 0.185 g, 30% | C1(=CC=CC=C1)NC(N[C@H]1[C@@H](CCCC1)OCC(=O)O)=S | C15H20N2O3S
